US08895273B2
Since D-galacturonic acid is a cheap raw material, which is enriched in sugar beet pulp and citrus fruit peel, a method for catabolizing D-galacturonic acid (D-galacturonate) is needed. In particular, a cheap method for producing mucic acid is needed.

reactant | D-galacturonic acid | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O | C6H10O7
reactant | D-galacturonic acid (D-galacturonate) | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O.O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)C(=O)O | 2C6H10O7
product | mucic acid | [C@@H]([C@@H]([C@H](C(=O)O)O)O)([C@@H](C(=O)O)O)O | C6H10O8
